US08044043B2
(R)-9-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-one.
In a 1 L round-bottomed flask was (S)-9-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-one (19.14 g, 108 mmol) (obtained by enzyme reduction of the diketone) in THF (300 mL) to give a light orange solution. 4-Nitrobenzoic acid (27.1 g, 162 mmol) and Ph3P (42.5 g, 162 mmol) were added under nitrogen, and the mixture was cooled to 0° C. Diisopropyl azodicarboxylate (31.9 mL, 162 mmol) was added dropwise. The mixture was allowed to gradually warm to rt and stirred overnight (5:00 pm). The color changed to tan. 15 h: LCMS showed complete conversion. 80 ml water was added followed by LiOH (7.76 g, 324 mmol). The mixture was stirred at rt for 2 h (some LiOH was not completely dissolved). 2 h: LCMS showed complete conversion (product/dehydrated ˜7/1 by intergration). THF was stripped off and the remaining mixture was slowly acidified with 40 ml concentrated HCl (12N). 300 ml EtOAc was added. The mixture was shaken in a 1L separating funnel. (10 ml hexane was added for better separation). The layers were separated and the organic layer was extracted with water (2×50 mL). The combined aqueous layers were washed with EtOAc (4×100 mL). The tan aqueous solution was then basified slowly with 50 mL ION NaOH and was extracted with EtOAc (4×150 mL). The aqueous layer was saturated with NaCl and extracted with EtOAc (2×100 mL). The combined tan organic layers (TLC showed desired product, dehydrated product and some baseline) were washed with brine, dried and concentrated to a tan oil (crude weight: 19.24 g, 100%), which was directly used in the next step. MS(ESI)[M+H+]=178.24.

reactant | 4-Nitrobenzoic acid | 162 mmol, 27.1 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | Ph3P | 162 mmol, 42.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Diisopropyl azodicarboxylate | 162 mmol, 31.9 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | LiOH | 324 mmol, 7.76 g | [Li+].[OH-]
reactant | HCl | 12N, 40 ml | Cl | ClH
solvent | EtOAc | 300 ml | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 80 ml | O | H2O
product | (R)-9-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-one | O[C@@H]1CCCC(C=2C1=NC=CC2)=O | C10H11NO2
